US04053601
A stirred mixture of 6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinethione (2 g, 0.006 mole) and hydrazine hydrate (50 ml) was heated under reflux in an atmosphere of nitrogen for 90 minutes. Excess of hydrazine hydrate was removed under reduced pressure and 3-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-6-hydrazinopyridazine was isolated as an oil which was characterised as the hemisulphate hemihydrate (2.34 g, 98%, m.p. 180°-185°). Recrystallisation from aqueous ethanol gave a crystalline material of m.p. 200°-203° (decomposition).

reactant | 6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-3(2H)-pyridazinethione | 0.006 mole, 2 g | C(C)(C)(C)NCC(COC1=C(C=CC=C1)C=1C=CC(NN1)=S)O | C17H23N3O2S
reactant | hydrazine hydrate | 50 ml | O.NN
product | 3-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-6-hydrazinopyridazine | C(C)(C)(C)NCC(COC1=C(C=CC=C1)C=1N=NC(=CC1)NN)O | C17H25N5O2
